US08017630B2
2-(4-Dimethylamino-4-(3-fluorophenyl)cyclohexylidene]-N-[2-(1H-indol-3-yl)ethyl]acetamide
1-Hydroxybenzotriazole (1.08 g, 8.0 mmol), tryptamine (640 mg, 4.0 mmol) and N-methylmorpholine (0.888 ml, 8.0 mmol) were added to a solution of [4-dimethylamino-4-(3-fluoro-phenyl)-cyclohexylidene]acetic acid (1.55 g, 4.0 mmol) in dry dimethylformamide (15 ml) under argon. The solution was cooled to 0° C., dicyclohexylcarbodiimide (1.64 g, 8.0 mmol) was added and the mixture was stirred at RT for 4 d. Working up of the mixture was carried out by separating off the urea which had precipitated out and introducing the filtrate into a mixture of saturated NaCl solution (40 ml) and saturated NaHCO3 solution (10 ml). Still further urea thereby precipitated out and was separated off. The aqueous phase was diluted with water (300 ml), 5 M sodium hydroxide solution (7 ml, 35 mmol) was added and the mixture was stored at 5° C. for 16 h. The crude product thereby precipitated out as a beige-coloured solid (1.3 g). After chromatography on silica gel (60 g) with EA/methanol (6:1), the product was obtained in a yield of 62% (1.03 g) with an m.p. of 172-176° C.

reactant | 1-Hydroxybenzotriazole | 8.0 mmol, 1.08 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | tryptamine | 4.0 mmol, 640 mg | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | N-methylmorpholine | 8.0 mmol, 0.888 ml | CN1CCOCC1 | C5H11NO
reactant | [4-dimethylamino-4-(3-fluoro-phenyl)-cyclohexylidene]acetic acid | 4.0 mmol, 1.55 g | CN(C1(CCC(CC1)=CC(=O)O)C1=CC(=CC=C1)F)C | C16H20FNO2
reactant | dicyclohexylcarbodiimide | 8.0 mmol, 1.64 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | sodium hydroxide | 35 mmol, 5 M, 7 ml | [OH-].[Na+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
product | 2-(4-Dimethylamino-4-(3-fluorophenyl)cyclohexylidene]-N-[2-(1H-indol-3-yl)ethyl]acetamide | yield of 62% | CN(C1(CCC(CC1)=CC(=O)NCCC1=CNC2=CC=CC=C12)C1=CC(=CC=C1)F)C | C26H30FN3O
